US04780477
By using 1-(2-diisopropylamino-1-methylethyl)isatin and semicarbazide hydrochloride, a method analogous to that described in Example 10 was carried out and the reaction product was recrystallized from ethanol to obtain (E)-1-(2-diisopropylamino-1-methylethyl)isatin 3-semicarbazone having a melting point of 195°-197° C. (yield: 65.3%).

reactant | 1-(2-diisopropylamino-1-methylethyl)isatin | C(C)(C)N(CC(C)N1C(=O)C(=O)C2=CC=CC=C12)C(C)C | C17H24N2O2
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-1-(2-diisopropylamino-1-methylethyl)isatin 3-semicarbazone | yield: 65.3% | C(C)(C)N(CC(C)N1C(=O)/C(/C2=CC=CC=C12)=N/NC(=O)N)C(C)C | C18H27N5O2
